US07608563B2
In acetonitrile (4 mL) was suspended 122 mg (0.428 mmol) of (2,4-dichlorophenyl)(5-hydroxy-1,3-dimethyl-1H-pyrazol-4-yl)methanone, 72.0 mg (0.643 mmol) of 1,4-diazabicyclo[2.2.2]octane, then 117 mg (0.425 mmol) of 1,3-benzenedisulfonyl dichloride were added to the suspension in an ice bath, and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was ice-cooled, and further 100 mg (0.361 mmol) of 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol was added to the mixture, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layers were combined, washed successively with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed, and the obtained residue was purified by silica gel column chromatography (Wako gel C-100, hexane:ethyl acetate, gradient) to obtain 135 mg (0.177 mmol, Yield: 49.0%) of 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinyl 4-(2,4-dichlorobenzoyl)-1,3-dimethyl-1H-pyrazol-5-yl 1,3-benzenedisulfonate (Compound No. 2333) and 38.0 mg (0.0503 mmol, Yield: 13.9%) of bis[6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinyl] 1,3-benzenedisulfonate (Compound No. 3755).

reactant | (2,4-dichlorophenyl)(5-hydroxy-1,3-dimethyl-1H-pyrazol-4-yl)methanone | 0.428 mmol, 122 mg | ClC1=C(C=CC(=C1)Cl)C(=O)C=1C(=NN(C1O)C)C | C12H10Cl2N2O2
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.643 mmol, 72.0 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | 1,3-benzenedisulfonyl dichloride | 0.425 mmol, 117 mg | C1(=CC(=CC=C1)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl2O4S2
reactant | 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinol | 0.361 mmol, 100 mg | ClC1=CC(=C(N=N1)OC1=C(C=CC=C1C)C1CC1)O | C14H13ClN2O2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 6-chloro-3-(2-cyclopropyl-6-methylphenoxy)-4-pyridazinyl 4-(2,4-dichlorobenzoyl)-1,3-dimethyl-1H-pyrazol-5-yl 1,3-benzenedisulfonate | 0.177 mmol, 135 mg, Yield: 49.0% | C1(=CC(=CC=C1)S(=O)(=O)OC1=C(C(=NN1C)C)C(C1=C(C=C(C=C1)Cl)Cl)=O)S(=O)(=O)OC1=C(N=NC(=C1)Cl)OC1=C(C=CC=C1C)C1CC1 | C32H25Cl3N4O8S2
